US06924276B2
Step (d): Preparation of 3-azidoacetyl-1-(tert-butoxycarbonyl)-indole
To a stirred solution of 3-bromoacetyl-1-(tert-butoxycarbonyl)-indole, which may be prepared as described in Step (c) above, (0.01 mol), in THF is added a solution or suspension of sodium azide (0.01 to 0.05 mol) in THF, which optionally contains from 0% to 50% water or methanol, and the mixture is stirred. Reaction progress may be followed by TLC or HPLC. When a sufficient amount of desired product is formed, the mixture (or, optionally, the residue which is obtained after first rotary evaporating off the reaction solvent) is partitioned between ethyl acetate and water. The organic layer is washed with brine, dried over sodium sulfate, and rotary evaporated to give 3-azidoacetyl-1-(tert-butoxycarbonyl)-indole, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | 3-bromoacetyl-1-(tert-butoxycarbonyl)-indole | BrCC(=O)C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H16BrNO3
reactant | sodium azide | 0.01 to 0.05 mol | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
reactant | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 3-azidoacetyl-1-(tert-butoxycarbonyl)-indole | N(=[N+]=[N-])CC(=O)C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H16N4O3
